US06451814B1
4-(4-{2-[(2S)-3-(2-Allyl-phenoxy)-2-hydroxy-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide
4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide formate (0.40 g, 0.95 mmol) was reacted with (2S)-2-[(2-allylphenoxy)methyl]oxirane (0.125 g, 0.713 mmol) according to Procedure G to give the title compound (eluant: 20:1 chloroform-methanol) (0.060 g, 0.1 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide formate | 0.95 mmol, 0.40 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCCCCCCC)C=C1
reactant | (2S)-2-[(2-allylphenoxy)methyl]oxirane | 0.713 mmol, 0.125 g | C(C=C)C1=C(OC[C@H]2OC2)C=CC=C1 | C12H14O2
product | 4-(4-{2-[(2S)-3-(2-Allyl-phenoxy)-2-hydroxy-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide | 0.1 mmol, 0.060 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=C(C=CC=C1)CC=C)O | C34H52N4O3
